US07598281B2
2-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexylcarbamoyl]cyclobutanecarboxylic acid
At room temperature, 28.7 g of benzyl bromide and then 37 g of potassium carbonate were added to a suspension of 9.37 g of methyl 3-aminocyclohexanecarboxylate hydrochloride in 78 ml of DMF. The mixture was stirred overnight. LCMS control showed that the starting material had reacted completely, giving a 1:3.5 mixture of methyl 3-dibenzylaminocyclohexanoate and benzyl 3-dibenzylaminocyclohexanoate. About 150 ml each of water and MTBE were added to the reaction solution, the organic phase was separated off, the aqueous phase was extracted again with MTBE and the organic phases were combined. This organic phase was washed with about 100 ml of water and then with about 50 ml of saturated NaCl solution, dried over MgSO4 and concentrated. The residue was dried under reduced pressure, giving 23 g of the mixture as an oil. LCMS:

reactant | benzyl bromide | 28.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 37 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-aminocyclohexanecarboxylate hydrochloride | 9.37 g | Cl.NC1CC(CCC1)C(=O)OC
reactant | methyl 3-dibenzylaminocyclohexanoate | C(C1=CC=CC=C1)N(C1CC(CCC1)C(=O)OC)CC1=CC=CC=C1 | C22H27NO2
reactant | benzyl 3-dibenzylaminocyclohexanoate | C(C1=CC=CC=C1)N(C1CC(CCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H31NO2
reactant | DMF | 78 ml | CN(C)C=O | C3H7NO
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | water | 150 ml | O | H2O
product | 2-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexylcarbamoyl]cyclobutanecarboxylic acid | 23 g | CC1=C(N=C(O1)C=1C=C(C=CC1)C)COCC1CC(CCC1)NC(=O)C1C(CC1)C(=O)O | C25H32N2O5
